* SKY130 BJT 2-stage PPA sweep op: CE1 -> CE2 -> output rebias -> ideal OPAMP follower -> two RC poles
.include "C:/eda/sky130/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/nonfet.spice"
.include "C:/eda/sky130/skywater-pdk-libs-sky130_fd_pr/cells/npn_05v5/sky130_fd_pr__npn_05v5__t.corner.spice"

.option savecurrents
.option klu
.option reltol=1e-4

.param VDD=5
.param VCM=2.5
.param RB_TOP=4.7Meg
.param RB_BOT=1Meg
.param RCVAL=115k
.param RE1VAL=3.9k
.param RE2VAL=3.9k
.param CCPL=68n
.param COUT=10n
.param CH=27p
.param ROUT=10Meg
.param RBUF=10k
.param CBUF=180p
.param OPAMP_FT=175k
.param IOPAMP={OPAMP_FT*7e-12}
.param pi=3.141592653589793
.param ROPAMP=1k
.param COPAMP={1/(2*pi*ROPAMP*OPAMP_FT)}

VDD vdd 0 {VDD}
VIN vin 0 DC {VCM}

CIN vin b1_base {CCPL}

RB1_TOP vdd b1_base {RB_TOP}
RB1_BOT b1_base 0 {RB_BOT}
RC1 vdd b1_collector {RCVAL}
RE1 b1_emitter 0 {RE1VAL}
XQ1 b1_collector b1_base b1_emitter 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=1
CH1 b1_collector 0 {CH}

C12 b1_collector b2_base {CCPL}

RB2_TOP vdd b2_base {RB_TOP}
RB2_BOT b2_base 0 {RB_BOT}
RC2 vdd b2_collector {RCVAL}
RE2 b2_emitter 0 {RE2VAL}
XQ2 b2_collector b2_base b2_emitter 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=1
CH2 b2_collector 0 {CH}

COUT b2_collector vout_drv {COUT}
ROUT_TOP vdd vout_drv {ROUT}
ROUT_BOT vout_drv 0 {ROUT}
EBUF vop_ideal 0 vout_drv 0 1
ROPAMP vop_ideal vbuf {ROPAMP}
COPAMP vbuf 0 {COPAMP}
IOPAMP vdd 0 {IOPAMP}
RBUF1 vbuf vfilt1 {RBUF}
CBUF1 vfilt1 0 {CBUF}
RBUF2 vfilt1 vout_final {RBUF}
CBUF2 vout_final 0 {CBUF}
CLOAD_10P vout_final 0 10p


.control
set noaskquit
op
print v(vdd)
print v(b1_base) v(b1_emitter) v(b1_collector)
print v(b2_base) v(b2_emitter) v(b2_collector) v(vout_drv) v(vfilt1) v(vout_final)
print v(b1_base)-v(b1_emitter) v(b1_collector)-v(b1_emitter)
print v(b2_base)-v(b2_emitter) v(b2_collector)-v(b2_emitter)
print v(b1_collector)-v(b2_base)
print i(vdd)
write D:/Codex/Support/Microelectronics-2stage-autotopo-ppa/results/ngspice/raw/bjt2_autotopo_ceopr_rc115k_re3p9k_rb4p7m_c68n_cout10n_ch27p_r10k_c180p_ft175k_op.raw
quit
.endc

.end
